US07553840B2
2,2,2-Trifluoro-1-(2-iodo-phenyl)-ethanol (0.331 g, 1.1 mmol), 3-phenyl pyrazole (0.144 g, 1.0 mmol), CuI (0.019 g, 0.1 mmol), K2CO3 (0.290 g, 2.1 mmol), (1R,2R)—N,N′-dimethyl-cyclohexane-1,2-diamine (0.028 g, 0.2 mmol) and toluene (10 ml) were taken in a 20 ml pressure tube and the mixture was heated at 130° C. (oil bath temperature) for 12 h. The mixture was diluted with ethyl acetate and washed with H2O (2×20 ml), brine, and dried over sodium sulfate. Removal of solvent gave a crude product, which was purified by ISCO column chromatography using 5-10% ethyl acetate in hexane as solvent to afford 2,2,2-trifluoro-1-[2-(3-phenyl-pyrazol-1-yl)-phenyl]-ethanol (75 mg).

reactant | 2,2,2-Trifluoro-1-(2-iodo-phenyl)-ethanol | 1.1 mmol, 0.331 g | FC(C(O)C1=C(C=CC=C1)I)(F)F | C8H6F3IO
reactant | 3-phenyl pyrazole | 1.0 mmol, 0.144 g | C1(=CC=CC=C1)C1=NNC=C1 | C9H8N2
reactant | K2CO3 | 2.1 mmol, 0.290 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (1R,2R)—N,N′-dimethyl-cyclohexane-1,2-diamine | 0.2 mmol, 0.028 g | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | CuI | 0.1 mmol, 0.019 g | [Cu]I
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2,2,2-trifluoro-1-[2-(3-phenyl-pyrazol-1-yl)-phenyl]-ethanol | 75 mg | FC(C(O)C1=C(C=CC=C1)N1N=C(C=C1)C1=CC=CC=C1)(F)F | C17H13F3N2O
